Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weight loss, bradycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/hx of anorexia referred from PCP office for weight 
loss,
bradycardia, admitted for management of medically unstable 
eating
disorder.

Patient has had anorexia "off and on" for approximately ___
years. Per patient's mother, she was hit by a car and broke her
foot in ___, c/b stress fracture in ___, which was very
difficult for patient. She has followed for medical care at
___ with Dr. ___ and had an
appointment today for a bone scan to evaluate for osteopenia. 
She
recently also established with a new PCP in ___,
PA), whom she saw yesterday, as the patient lives in ___. The
patient woke up at 4:30 today to travel from ___ to her
appointment with Dr. ___ otherwise has no acute
complaints. At her appointment, she was noted to have a 10lb
weight loss since last seeing Dr. ___ in ___, and was
referred to the ED due to concern for malnutrition. 

Patient denies any recent acute complaints, although she 
endorses
fatigue. She denies any recent mood changes, although she says
that she is sometimes irritable when hungry. She describes a 
very
regimented diet and exercise routine: describes her diet as a
cappuccino in the morning, followed by a grapefruit, then coffee
in the afternoon, dinner (e.g. sushi or a salad), then an apple
or tea. She reports following a pescatarian diet. No reported
purging behavior. She denies taking any medications. She has
trained as a marathon runner for several years. She reports a
daily exercise regimen of 45 minutes of spin exercises and 50
minutes of ___ exercises. 

Patient reports that her heart rate has been in ___ at least
since ___, when she first noticed on her Apple watch; at
night may decrease to high ___. Denies any associated symptoms,
says that this has previously been attributed to her being an
endurance athlete.

In the ED, patient triggered for bradycardia to the ___ with
ventricular bigeminy. She was asymptomatic, hemodynamically
stable. Noted to weigh 96lb with height 5'4", c/w BMI 16.5.
Started on multivitamin, folate, IV thiamine for malnutrition. 
Admitted to medicine for further management of malnutrition,
medically unstable eating disorder. 

Upon arrival to the floor, patient reports fatigue and
"tightness" in her calves, but denies fevers, chills,
light-headedness, dizziness, SOB, CP, palpitations, n/v/d,
abdominal pain, rash, swelling, or other symptoms. Last BM
yesterday, normal.

 
Past Medical History:
Anorexia 
Osteopenia
Amenorrhea
Prolactinoma

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAM
===========================
GENERAL: Thin adult woman in NAD
HEENT: NCAT, sclerae anicteric, normal conjunctivae, pupils
dilated bilaterally but reactive, EOMI, oropharynx clear, MMM
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. 
ABDOMEN: Soft, non-tender, non-distended, normoactive BS
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
NEUROLOGIC: A&Ox3, CNII-XII intact, strength ___ in upper and
lower extremities bilaterally in all groups, sensation grossly
intact, no dysmetria.

===========================
DISCHARGE PHYSICAL EXAM
===========================
GENERAL: Thin appearance, NAD
HEENT: NCAT, sclerae anicteric, normal conjunctivae, MMM
CARDIAC: RRR, normal S1/S2, no m/r/g
LUNG: CTAB, no increased work of breathing
ABD: Soft, non-tender, non-distended, normoactive BS
EXT: Warm, DP pulses 2+ bilaterally, no edema 
NEURO: A&Ox3, CN grossly intact

 
Pertinent Results:
ADMISSION LABS
===============
___ 11:23AM BLOOD WBC-2.8* RBC-3.63* Hgb-11.8 Hct-35.9 
MCV-99* MCH-32.5* MCHC-32.9 RDW-12.7 RDWSD-45.8 Plt ___
___ 11:23AM BLOOD Neuts-54.5 ___ Monos-9.8 Eos-0.7* 
Baso-1.5* NRBC-0.7* Im ___ AbsNeut-1.50* AbsLymp-0.91* 
AbsMono-0.27 AbsEos-0.02* AbsBaso-0.04
___ 11:23AM BLOOD Plt ___
___ 11:23AM BLOOD Glucose-88 UreaN-14 Creat-0.7 Na-138 
K-4.1 Cl-100 HCO3-27 AnGap-11
___ 11:23AM BLOOD ALT-51* AST-90* AlkPhos-44 TotBili-0.4
___ 11:23AM BLOOD Albumin-5.1 Calcium-10.3 Phos-3.4 Mg-2.1
___ 10:36PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 10:36PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG
___ 10:36PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 10:36PM URINE Mucous-RARE*

PERTINENT LABS
===============
___ 06:15AM BLOOD calTIBC-233* VitB12-626 Folate-12 
Ferritn-69 TRF-179*
___ 05:49AM BLOOD Ferritn-80
___ 03:10PM BLOOD Osmolal-288
___ 07:30AM BLOOD FSH-0.3* LH-<0.1*
___ 06:52AM BLOOD Prolact-46* TSH-4.6*
___ 06:15AM BLOOD TSH-4.7*
___ 06:15AM BLOOD T4-4.4*
___ 05:12AM BLOOD Cortsol-19.1
___ 05:49AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:30AM BLOOD HCG-<5 Estradl-<5
___ 05:40AM BLOOD HIV Ab-NEG
___ 01:31PM URINE Hours-RANDOM Creat-18 Na-50 K-29 Mg-2.7
___ 01:31PM URINE Osmolal-239

DISCHARGE LABS
===============
___ 05:11AM BLOOD WBC-3.7* RBC-3.68* Hgb-12.0 Hct-37.3 
MCV-101* MCH-32.6* MCHC-32.2 RDW-13.1 RDWSD-48.6* Plt ___
___ 05:11AM BLOOD Glucose-79 UreaN-20 Creat-0.6 Na-144 
K-4.9 Cl-102 HCO3-28 AnGap-14
___ 05:11AM BLOOD ALT-53* AST-29 LD(LDH)-193 AlkPhos-62 
TotBili-0.2
___ 05:11AM BLOOD Albumin-4.9 Calcium-10.0 Phos-3.7 Mg-2.2

IMAGING
========
CXR (___)
No pneumonia or acute cardiopulmonary process.

ABDOMINAL US (___)
2 mm nonobstructing left kidney stone.  Otherwise normal 
abdominal ultrasound.

MICROBIOLOGY
=============
None
 
Brief Hospital Course:
___ woman w/hx of anorexia, osteopenia referred from PCP office 
for weight loss, bradycardia, admitted for management of 
medically unstable eating disorder.

# Anorexia Nervosa
# Weight Loss
# Malnutrition
# Medically unstable eating disorder 
Patient believes she first developed significant weight loss and 
changes in her eating habits after she graduated college. She 
then began training for marathons, and noticed more weight loss 
at that time. She has never been symptomatic, though had noticed 
low heart rates in the ______s of late. She engages in rigorous 
physical activity daily and regimented eating schedules. She has 
never been treated before for an eating disorder. She was seen 
by nutrition and psychiatry teams and started on a meal plan 
with meal time monitoring. Weight declined slightly from 98.9 
lbs on admission to nadir of 94.9, but patient subsequently with 
improved nutritional intake and increased weight to 99.21 lbs on 
discharge. Patient screened for inpatient eating disorder 
treatment programs and accepted at ___.

# Orthostasis
BP stable on orthostatics, but marked HR indicative of 
orthostasis. No symptoms of orthostasis. BUN elevation also 
likely secondary to dehydration. Responded well to IV fluids on 
___ and ___.

# Bradycardia
# Ventricular Bigeminy
Chronic bradycardia, patient reported HRs in ___ since at 
least
___. Asymptomatic, stable BP for duration of admission. 
Baseline may be decreased due to athletic conditioning, but 
likely also has component due to poor
nutrition. HR improved from admission; lowest HR in ___, 
augmenting
HR with exertion. No evidence of malignant arrhythmias on 
telemetry.

# Mild anemia
Borderline macrocytic anemia (MCV100), likely due to nutritional
deficiency. Transferrin sat 23%, ferritin 69, not suggestive of 
iron deficiency. Folate, B12 WNL. Hemoglobin normal at 12.0 
prior to discharge, still with elevated MCV (101).

# Leukopenia
# Neutropenia
Likely secondary to anorexia. Afebrile, no localizing symptoms 
of
infection. Most likely related to nutritional deficiencies and 
improving with diet. 

# Transaminitis
Mild AST, ALT elevation, likely complication of eating disorder 
as normalized with improved nutrition. Normal Alk Phos, 
bilirubin. Hep serologies negative, normal
ferritin. RUQUS unremarkable (incidental finding of 2mm kidney
stone). Liver enzymes downtrending prior to discharge.

# Hypothyroidism
Low T4, high TSH likely due to decreased thyroid function in
context of undernutrition (seen with anorexia). Following with 
endocrine. 

# Prolactinoma
Hx of prolactinoma, checking prolactin level given amenorrhea, 
osteopenia. Prolactin level elevated. Not on cabergoline, she 
reports stopping about ___ years ago at the direction of her 
endocrinologist. Briefly started on cabergoline while admitted, 
subsequently discontinued per endocrinology recommendation. Per 
endocrinology, patient will need follow-up with outpatient 
endocrinologist for prolactinoma, brain MRI pituitary, and 
repeat prolactin level 

# Osteopenia
Likely secondary to poor nutritional intake in setting of 
anorexia. Labs notable for FSH<3, LH<0.1. For bone density 
protection, endocrinology recommended starting 100mcg weekly 
estrogen patch, as well as 5MG medroxyprogesterone on first 10 
days of every month to start ___ estrogen patch non-formulary 
at ___, but script provided on discharge.

#Polyuria, resolved
3L of urine output on ___ with minimal recorded intake, serum Na 
normal. 24 hr urine collection showed < 3L output, making 
diabetes insipidus unlikely, consider primary polydipsia or 
diuretic use. Urine diuretic screen negative.

TRANSITIONAL ISSUES
====================
[ ] Patient needs referral for new PCP at ___ on discharge 
from ___
[ ] Given script on discharge for estrogen transdermal patch 
(100mcg weekly), medroxyprogesterone 5MG (daily for first 10 
days of every month, to begin ___
[ ] Scheduled for endocrinology follow-up, needs brain MRI 
pituitary and prolactin level checked
[ ] Incidental finding on ultrasound of 2mm non-obstructing L 
kidney stone, does not require further follow-up
[] Please continue to follow CBC and LFT to ensure that 
pancytopenia and ALT elevation is resolving with improved 
nutrition 
[] MCV has remained elevated, if pancytopenia does not resolve 
with nutrition would consider MDS and ___ referral
[] History of nightsweats that resolved during hospitalization. 
Monitor for recurrence 
[ ] Needs Hep B vaccination

New Medications:
Estrogen TD 100mcg weekly
Medroxyprogesterone 5MG daily first 10 days of every month to 
begin ___
Multivitamin with minerals

Changed Medications:
None

Stopped/Held Medications:
None

>30 minutes spent on patient care and coordination on day of 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  estradiol 100 mcg transdermal WEEKLY 
RX *estradiol 0.1 mg/24 hour  Weekly Disp #*4 Patch Refills:*0 
2.  MedroxyPROGESTERone Acetate 5 mg PO DAILY Duration: 10 Days 
RX *medroxyprogesterone 5 mg 1 tablet(s) by mouth Daily for 
first 10 days of every month Disp #*10 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY:
-Anorexia nervosa
-Weight Loss
-Malnutrition
-Bradycardia

SECONDARY:
-Transaminitis 
-Leukopenia
-Osteopenia
-Prolactinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for malnutrition, slow heart rate, and 
abnormal liver function.
 
What was done for me while I was in the hospital?  
- You were seen by the nutrition and psychiatry teams for 
management of anorexia.
- You were seen by endocrinology for low estrogen levels and 
bone protection 
- Your nutritional intake improved.
- You were accepted at the ___ inpatient treatment 
program and 

What should I do when I leave the hospital?  
- Continue to see a nutritionist 
- Follow up with your primary care doctor and endocrinology 
- ___ to take all of your medications
 
Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___